US07345068B2
A solution of n-butyl lithium in hexane (1.5M; 3.72 ml, 5.6 mmol) was added dropwise to a solution of 5-bromobenzo[b]furan (1.0 g, 5.0 mmol) in tetrahydrofuran (10 ml) under argon atmosphere at −60° C. and the mixture was stirred at the same temperature for 30 min. To the mixture was added trimethyl borate (0.69 ml, 6.0 mmol) and temperature of the mixture was raised to room temperature in 4 hrs. Water (5 ml) was added to the reaction mixture at 5° C. and tetrahydrofuran was distilled off under reduced pressure. To the residue was added 1N hydrochloric acid (pH 1) and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried. The solvent was distilled off and the residue was triturated with a mixture of n-hexane/diethyl ether, filtered and dried to give 5-benzo[b]furan boronic acid (551 mg) as a pale brown solid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 5.6 mmol, 1.5M, 3.72 ml | CCCCCC | C6H14
reactant | 5-bromobenzo[b]furan | 5.0 mmol, 1.0 g | BrC1=CC2=C(OC=C2)C=C1 | C8H5BrO
reactant | trimethyl borate | 6.0 mmol, 0.69 ml | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Water | 5 ml | O | H2O
product | 5-benzo[b]furan boronic acid | 551 mg | O1C2=C(C=C1)C=C(C=C2)B(O)O | C8H7BO3
